US07135467B2
2-(1,1-Dioxo-1λ6-[1,2]thiazinan-2-yl)-5-methoxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid
A solution of 2-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-5-methoxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (0.180 g, 0.52 mmol) in 90% ethanol (10 ml) was treated at 22° C. 1 N with sodium hydroxide (1 ml) and the resulting mixture was stirred for 30 min. Then 1 N hydrochloric acid (2 ml) was added and the ethanol was evaporated under reduced pressure. The residue was dissolved in ethyl acetate, washed with brine and dried over anhydrous magnesium sulfate. Evaporation of the solvent and recrystallization of the solid residue from ethyl acetate gave 0.133 g (81% yield) of the title acid as a white crystals; mp 180–181° C. 1HNMR 400 MHz (DMSO-d6) δ (ppm): 1.55–1.6 (1H, m, CH), 2.0–2.25 (3H, m, CH2 and CH), 3.43 (2H, m, CH2), 3.44 (3H, s, NCH3), 3.75 (2H, m, CH2), 3.83 (3H, s, OCH3). Anal. Calcd for C11H15N3O6S: C, 41.64; H, 4.76; N, 13.24. Found: C, 41.84; H, 4.96; N, 12.88.

reactant | 2-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-5-methoxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.52 mmol, 0.180 g | C(C)OC(=O)C=1N=C(N(C(C1OC)=O)C)N1S(CCCC1)(=O)=O | C13H19N3O6S
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 2 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(1,1-Dioxo-1λ6-[1,2]thiazinan-2-yl)-5-methoxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid | 0.133 g, 81% yield | O=S1(N(CCCC1)C=1N(C(C(=C(N1)C(=O)O)OC)=O)C)=O | C11H15N3O6S
